US04923857
To a solution of 1-allyloxycarbonyl-2-t-butyldimethylsilyloxymethyl-5-methoxymethylpyrrolidine (9.67 g) in tetrahydrofuran (97 ml) was added dropwise a solution of tetrabutylammonium fluoride in tetrahydrofuran (31 ml) at 0° C. The mixture was allowed to warm to room temperature and stirred for an hour. The mixture was poured into water and ethyl acetate, and the aqueous layer was separated and extracted twice with ethyl acetate. The combined organic layer was washed twice with 1N hydrochloric acid, and with saturated aqueous sodium bicarbonate, water and brine successively, dried over magnesium sulfate and evaporated under reduced pressure to give 1-allyloxycarbonyl-2-hydroxymethyl-5-methoxymethylpyrrolidine (5.60 g).

reactant | 1-allyloxycarbonyl-2-t-butyldimethylsilyloxymethyl-5-methoxymethylpyrrolidine | 9.67 g | C(C=C)OC(=O)N1C(CCC1COC)CO[Si](C)(C)C(C)(C)C | C17H33NO4Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 97 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 31 ml | O1CCCC1 | C4H8O
product | 1-allyloxycarbonyl-2-hydroxymethyl-5-methoxymethylpyrrolidine | 5.60 g | C(C=C)OC(=O)N1C(CCC1COC)CO | C11H19NO4
